US05462954
Methyl 3-(2-hydroxy-3-(4-methoxycarbonylbutyl)-6-(3-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionate
A mixture 250 mg of ethyl 3-(2-hydroxy-3-(4-methoxycarbonylbutyl)-6-(3-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionate, 0.1 gm of 10% palladium on carbon, and several drops of concentrated sulfuric acid in 125 mL of methanol was hydrogenated on a Parr™ apparatus at 45 psi for 18 hours. The mixture was filtered and the filtrate was evaporated in vacuo giving the title intermediate in 80% yield, NMR

reactant | ethyl 3-(2-hydroxy-3-(4-methoxycarbonylbutyl)-6-(3-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionate | 250 mg | OC1=C(C(=CC=C1CCCCC(=O)OC)OCCCOC1=C(C=C(C(=C1)O)C1=CC=C(C=C1)F)CC)CCC(=O)OCC | C34H41FO8
catalyst | palladium on carbon | 0.1 gm | [Pd] | Pd
catalyst | sulfuric acid | several drops | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 125 mL | CO | CH4O
product | Methyl 3-(2-hydroxy-3-(4-methoxycarbonylbutyl)-6-(3-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)propoxy)phenyl)propionate | 80% yield | OC1=C(C(=CC=C1CCCCC(=O)OC)OCCCOC1=C(C=C(C(=C1)O)C1=CC=C(C=C1)F)CC)CCC(=O)OC | C33H39FO8
